US09388189B2
(S)-2-(1-((5-(1-(3-((tert-Butyldimethylsilyl)oxy)propyl)-1H-pyrazol-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (120 mg, 0.2 mmol) was treated with 1-(3-(tert-butyldimethylsilyloxy)propyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (180 mg, 0.49 mmol), tetrakistriphenylphosphine palladium (72 mg, 0.06 mmol) and aqueous solution of sodium carbonate (2M, 250 μl, 0.5 mmol) in DMF (3 ml). The reaction mixture was submitted at vacuum-argon cycles and stirred at 100° C. for 3 h. The reaction mixture was cooled down to room temperature and poured over ice, basified with potassium carbonate and extracted with ethyl acetate (×3). The organic phase was successively washed with water and brine, dried over magnesium sulphate, filtered and the solvent evaporated under reduced pressure. The residue was purified by normal phase using SP1® Purification System (0% to 50%, hexane-diethyl ether) to obtain 124 mg (69% yield) of the title compound. Purity: 85%.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.2 mmol, 120 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | 1-(3-(tert-butyldimethylsilyloxy)propyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.49 mmol, 180 mg | [Si](C)(C)(C(C)(C)C)OCCCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C18H35BN2O3Si
reactant | sodium carbonate | 0.5 mmol, 2M, 250 μl | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (S)-2-(1-((5-(1-(3-((tert-Butyldimethylsilyl)oxy)propyl)-1H-pyrazol-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 124 mg, 69% yield | [Si](C)(C)(C(C)(C)C)OCCCN1N=CC(=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C39H55N9O3Si2
